US04956333
Synthesis of phenyl mesitylenesulfonate
9.4 g of phenol is added to a mixture containing 9.17 g of 48% NaOH, 50 ml of water and 50 ml of toluene. To the resulting mixture is added 22.9 g of mesitylenesulfonyl chloride, and reaction is carried out at 60° to 65° C. for 1 hour. After separating the aqueous layer, toluene is removed from the toluene layer by distillation. The resulting desired compound is purified with methanol.

reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 9.17 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | mesitylenesulfonyl chloride | 22.9 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | phenyl mesitylenesulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)OC1=CC=CC=C1)C | C15H16O3S
